US07985769B2
A suspension of 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (0.70 g, 3 mmol) and 4-formyl N-Cbz-piperidine (0.74 g, 3 mmol) in THF (1.2 mL) was treated with dibutyltin dichloride (46 mg, 0.15 mol) followed by phenylsilane (0.41 mL, 3.3 mmol). The mixture was stirred for 2 days at room temperature. The solvent was then evaporated and the residue was purified by silica gel column chromatography using CH2Cl2:hexanes:EtOAc as eluent to provide 4-[(2-Methoxycarbonyl-5-phenyl-thiophen-3-ylamino)-methyl]-piperidine-1-carboxylic acid-benzyl ester (0.6906 g, 50% yield).

reactant | 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 3 mmol, 0.70 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | 4-formyl N-Cbz-piperidine | 3 mmol, 0.74 g | C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | dibutyltin dichloride | 0.15 mol, 46 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenylsilane | 3.3 mmol, 0.41 mL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(2-Methoxycarbonyl-5-phenyl-thiophen-3-ylamino)-methyl]-piperidine-1-carboxylic acid-benzyl ester | 0.6906 g, 50% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C26H28N2O4S
